US05965559
Di-tert-butyl dicarbonate (5.09 g) was added to a stirred mixture of piperidine-4-carboxylic acid (3 g), sodium carbonate (2.48 g), 1,4-dioxan (20 ml) and water (20 ml) which had been cooled to 0° C. The mixture was stirred at ambient temperature for 18 hours. The mixture was concentrated by evaporation to one third of the original volume and a saturated sodium bisulphate solution was added to bring the solution to pH 2 to 3. The mixture was extracted with ethyl acetate. The organic phase was washed with water and with brine, dried (MgSO4) and evaporated to give 1-tert-butoxycarbonylpiperidine-4-carboxylic acid (4.36 g) which was used without further purification.

reactant | Di-tert-butyl dicarbonate | 5.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperidine-4-carboxylic acid | 3 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | sodium carbonate | 2.48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 1-tert-butoxycarbonylpiperidine-4-carboxylic acid | 4.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
